US08563542B2
Reaction of 1-cyclopentylaminomethyl-cyclopropanecarboxylic acid methyl ester with 2,4-dichloro-5-nitropyrimidine and K2CO3 in acetone gave 1-{[(2-Chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}cyclopropanecarboxylic acid ethyl ester. Treatment with NH4Cl and iron powder in ethanol gave 1-{[(5-Amino-2-chloro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-cyclopropanecarboxylic acid ethyl ester

reactant | 1-cyclopentylaminomethyl-cyclopropanecarboxylic acid methyl ester | COC(=O)C1(CC1)CNC1CCCC1 | C11H19NO2
reactant | 2,4-dichloro-5-nitropyrimidine | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-{[(2-Chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)CN(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl | C16H21ClN4O4
